US04788206
The compounds were prepared according to the procedure described in Example 84 except that the reaction was worked up after 3 days. The following reagents were used: 1-(4-methoxyphenyl)-2-methylpropanone (17.8 g), diisopropylamine (32.2 mL), 1.6M 1-butyl lithium in hexane (143 mL), acetaldehyde N-tert-butylimine (14.75 mL), diethyl chlorophosphonate (16.6 mL) and tetrahydrofuran (200 mL). The work up, varied only in that the oxalic acid hydrolysis was run overnight at room temperature, furnished 21.3 g of crude product containing (E)- and (Z)-3-4-methoxyphenyl)-4-methyl-2-pentenal in the ratio of 2:3. An attempt to separate the crude by HPLC (ether-hexane; 3:17; multiple recycles) only resulted in mixtures of (E)-3-(4-methoxphenyl)-4-methyl-2-pentenal and (Z)-3-(4-methoxyphenyl)-4-methyl-2-pentenal with E/Z ratios that varied between 1:and 1:1.

reactant | diisopropylamine | 32.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | 1-butyl lithium | 1.6M | C(CCC)[Li]
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
reactant | 4-methyl-2-pentenal | CC(C=CC=O)C | C6H10O
solvent | hexane | 143 mL | CCCCCC | C6H14
solvent | acetaldehyde N-tert-butylimine | 14.75 mL | C(C)(C)(C)N=CC | C6H13N
solvent | diethyl chlorophosphonate | 16.6 mL | ClP(OCC)(OCC)=O | C4H10ClO3P
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (Z)-3-(4-methoxyphenyl)-4-methyl-2-pentenal | COC1=CC=C(C=C1)\C(=C/C=O)\C(C)C | C13H16O2
